US09079866B2
1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N-ethylmethanesulfonamide formate salt
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-(2-bromophenyl)-N-ethylmethanesulfonamide. MS (ESI): mass calcd. for C19H19FN4O2S, 386.12; m/z found, 387.0 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.39 (s, 1H), 8.08 (d, J=1.4, 1H), 7.93 (m, 1H), 7.71-7.61 (m, 1H), 7.49-7.27 (m, 5H), 4.36 (s, 2H), 2.85 (q, J=7.2, 2H), 1.06 (t, J=7.2, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-(2-bromophenyl)-N-ethylmethanesulfonamide | BrC1=C(C=CC=C1)CS(=O)(=O)NCC | C9H12BrNO2S
product | 1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N-ethylmethanesulfonamide formate salt | C(=O)O.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)CS(=O)(=O)NCC)F | InChI=1S/C19H19FN4O2S.CH2O2/c1-2-24-27(25,26)12-14-5-3-4-6-15(14)13-7-8-16(17(20)9-13)18-10-23-19(21)11-22-18;2-1-3/h3-11,24H,2,12H2,1H3,(H2,21,23);1H,(H,2,3)
